

************************* FOC subcircuit ***************************************
.subckt controller iasm ibsm icsm rpm theta vbus qs_ref ds_ref 
+rpm_ref=500 
+rpm_max=10000 
+vdd=5 
+Iq_Max=15
+poles=4

* transform the current to alpha-beta frame
Xiab iasm ibsm icsm iam ibm clark
** m= measured phase currents
Xiqs iam ibm theta iqsm idsm park
.param current_gain= {vdd/Iq_Max}
Eiq_meas iq_meas 0 value={v(iqsm)*current_gain}
Eid_meas id_meas 0 value={v(idsm)*current_gain}

**************** speed loop ***********************
* reference speed
.param rpm_gain={vdd/rpm_max}
vrpm rpm_ref 0 dc 0 PWL(0s 0V 0.1us {rpm_ref*rpm_gain})

* sampled rpm
Erpm_meas rpm_meas 0 value={v(rpm)*rpm_gain}
Xpi rpm_meas rpm_ref te_ref pi c=2u r=10k vdd=5


****************** current loop ***********************
* reference for pi controllers
EIqref iq_ref 0 value={1/(3/2*poles/2*lambda_m)*v(te_ref) * current_gain}
EIdref id_ref 0 value={0 * current_gain}
Xpiq iqsm iq_ref vqs_ref pi c=100n r=10k vdd=5
Xpid idsm id_ref vds_ref pi c=100n r=10k vdd=5


* now generate the abc voltages
* multiply the output by Vbus
Eqs_ref qs_ref 0 value={v(vqs_ref)/vdd}
Eds_ref ds_ref 0 value={v(vds_ref)/vdd}

.ends controller





************************* SPVM average subcircuit ********************************
* average spvm block using average transistor models
.subckt spvm q d theta as bs cs bus
.include average.lib
Xpark q d theta alpha beta park
* use reverse park transformation to get the reference voltages
Xiclark alpha beta a b c iclark

* implement spvm based on ned-mohan book. 
Ekmax kmax 0 value={max(v(a),max(v(b),v(c)))}
Ekmin kmin 0 value={min(v(a),min(v(b),v(c)))}
Ek    k    0 value={(v(kmax)+v(kmin))/2}
Eda da 0 value={(v(a)-v(k))+1/2}
Edb db 0 value={(v(b)-v(k))+1/2}
Edc dc 0 value={(v(c)-v(k))+1/2}

Xqa bus as as 0 da ccm1
Xqb bus bs bs 0 db ccm1
Xqc bus cs cs 0 dc ccm1
.ends spvm

************************* SPVM average subcircuit ********************************
* average spvm block with just sinewave as output
.subckt spvm_avg q d theta a b c bus
Xpark q d theta alpha beta park
* use reverse park transformation to get the reference voltages
Xiclark alpha beta a0 b0 c0 iclark
Ea a 0 value={v(a0) * v(bus)}
Eb b 0 value={v(b0) * v(bus)}
Ec c 0 value={v(c0) * v(bus)}
.ends spvm_avg


***************************** PI controller subcircuit ********************************
* a subckt for the PI controller using a generic opamp
.subckt pi meas ref out c=1u r=10k vdd=5
r1 meas inn {r}
c1 inn out {c}
vdd vcc 0 {vdd}
vss vee 0 {-vdd}
**xop in+ in- vcc vee out genopa1 POLE=20 GAIN=20k VOFF=10m ROUT=10
xop ref inn vcc vee out genopa1 pole=20 gain=20k voff=1m rout=1
.ends pi